US05294734
0.32 ml (4.40 mmol) of dimethyl sulfoxide is added dropwise under nitrogen to a solution of 0.19 ml (2.20 mmol) of oxalyl chloride in 10 ml of methylene chloride which is being stirred at -50°. The mixture is stirred for 15 minutes, and then 0.5 g (2 mmol) of 6-(N-benzyloxycarbonylamino)hexan-1-ol is added. Stirring is continued at -50° for 25 minutes, 1.78 ml (10 mmol) of N-ethyl-N,N-diisopropylamine are added dropwise and the mixture is poured into 10 ml of ice-water. The organic phase is separated off and the aqueous phase is extracted with 10 ml of methylene chloride. The organic phases are combined, washed twice with 5 ml of N-hydrochloric acid each time and once with 10 ml of saturated sodium chloride solution, dried over magnesium sulfate and concentrated to dryness by evaporation. The resulting oil is purified by chromatography on silica gel with hexane/ethyl acetate (1:1) as eluant. 6-(N-benzyloxycarbonylamino)hexanal is obtained.

reactant | dimethyl sulfoxide | 4.40 mmol, 0.32 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 2.20 mmol, 0.19 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-(N-benzyloxycarbonylamino)hexan-1-ol | 2 mmol, 0.5 g | C(C1=CC=CC=C1)OC(=O)NCCCCCCO | C14H21NO3
reactant | N-ethyl-N,N-diisopropylamine | 10 mmol, 1.78 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 6-(N-benzyloxycarbonylamino)hexanal | C(C1=CC=CC=C1)OC(=O)NCCCCCC=O | C14H19NO3
